US07105539B2
3-Methoxycarbonyl-hexanedioic acid 1-tert-butyl ester
To a solution of n-BuLi (2.5M, 2.6 mL, 71.5 mmol) in anhydrous THF (200 mL) was added anhydrous diisopropyl amine (9.6 mL, 68.30 mmol) at −78° C. After 20 minutes of stirring, a solution of monomethyl glutarate (5 g, 32.5 mmol) in anhydrous THF (20 mL) was added drop wise under controlled temperature. After 30 minutes, a solution of tert-butyl bromoacetate (4.9 mL, 32.50 mmol) in anhydrous THF (20 mL) was slowly added followed by the addition of HMPA (8 mL). The reaction mixture was stirred at −78° C. for an additional 2 h followed by 24 h at room temperature. The reaction mixture was partitioned between HCl (2N, excess) and ethyl acetate. The organic phase was separated and the aqueous phase was extracted several times with ethyl acetate. The recombined organic layer was extracted with brine, dried over sodium sulfate, filtered, and evaporated. The residue was first flashed with chloroform and then with 2–5% methanol in chloroform. The product was obtained as a light yellow oil. 1H-NMR(CDCl3, 400 MH: 1.42(s, 9H); 1.89(m, 2H); 2.24(m, 2H); 2.64(m, 2H); 2.84(m, 1H); 3.69(s, 3H).

reactant | n-BuLi | 71.5 mmol, 2.5M, 2.6 mL | [Li]CCCC
reactant | diisopropyl amine | 68.30 mmol, 9.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | monomethyl glutarate | 32.5 mmol, 5 g | C(CCCC(=O)[O-])(=O)OC
reactant | tert-butyl bromoacetate | 32.50 mmol, 4.9 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | HMPA | 8 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 3-Methoxycarbonyl-hexanedioic acid 1-tert-butyl ester | C(C)(C)(C)OC(CC(CCC(=O)O)C(=O)OC)=O | C12H20O6
